US09062050B2
Step 7: 3-[(1R)-6-fluoro-2,3-dihydro-1H-inden-1-yl]-N-(3-methyl-1H-pyrazol-5-yl)-3H-imidazo[4,5-b]pyridin-5-amine dihydrochloride
Dissolve 3-[(1R)-6-fluoro-2,3-dihydro-1H-inden-1-yl]-N-(3-methyl-1H-pyrazol-5-yl)-3H-imidazo[4,5-b]pyridin-5-amine (0.070 g, 0.201 mmol) in dichloromethane (5 mL). Add hydrogen chloride, 4 M in 1,4-dioxane (0.100 mL, 0.400 mmol). Stir the solution for 14 hours, and then concentrate to dryness in vacuo. Dissolve in methanol and concentrate to dryness in vacuo three times to give the title compound (0.067 g, 79%). MS (ES) m/z=349 [M+1].

reactant | 3-[(1R)-6-fluoro-2,3-dihydro-1H-inden-1-yl]-N-(3-methyl-1H-pyrazol-5-yl)-3H-imidazo[4,5-b]pyridin-5-amine | 0.201 mmol, 0.070 g | FC1=CC=C2CC[C@H](C2=C1)N1C=NC=2C1=NC(=CC2)NC2=CC(=NN2)C | C19H17FN6
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 0.400 mmol, 0.100 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-[(1R)-6-fluoro-2,3-dihydro-1H-inden-1-yl]-N-(3-methyl-1H-pyrazol-5-yl)-3H-imidazo[4,5-b]pyridin-5-amine dihydrochloride | 0.067 g, 79% | Cl.Cl.FC1=CC=C2CC[C@H](C2=C1)N1C=NC=2C1=NC(=CC2)NC2=CC(=NN2)C | InChI=1S/C19H17FN6.2ClH/c1-11-8-18(25-24-11)22-17-7-5-15-19(23-17)26(10-21-15)16-6-3-12-2-4-13(20)9-14(12)16;;/h2,4-5,7-10,16H,3,6H2,1H3,(H2,22,23,24,25);2*1H/t16-;;/m1../s1
